### PR TITLE
feat(MeasureTheory/Group/GeometryOfNumbers): successive minima and existence of a directional basis

### PR DESCRIPTION
**Pull request by khwilson**
Define the successive minima of a discrete subgroup of a real vector space with respect to a convex set. These invariants show up throughout the geometry of numbers and are the focus of Minkowski's Second Theorem (whose statement is left here with a `proof_wanted`).

Note: The key lemma is that the "gauge set" of the convex set is closed. I took the approach of showing that it is sequentially closed. There's an alternative approach via showing it's the union of a finite number of closed sets. I personally thought this approach was more intuitive, but the union approach may result in a slightly shorter proof.

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

- [x] depends on #37738 
- [x] depends on #37740

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Body.lean [hunk 1]
```diff
@@ -159,16 +159,7 @@ noncomputable instance : Module ℝ≥0 (ConvexBody V) where
 
 set_option backward.isDefEq.respectTransparency false in
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Body.lean]: Is this still necessary?

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean [hunk 2]
```diff
@@ -523,6 +523,13 @@ theorem LinearIndependent.of_pairwise_dual_eq_zero_one (v : ι → M) (f : ι 
   have aux (j : ι) (hjs : j ∈ s) (hji : j ≠ i) : g j * (f i) (v j) = 0 := by simp [h1 hji.symm]
   simpa [s.sum_eq_single i aux (by aesop), h2 i] using congr_arg (f i) hrel
 
+/-- See `LinearIndependent.fin_snoc` for a family of elements in a vector space. -/
+theorem LinearIndependent.fin_snoc' {m : ℕ} (v : Fin m → M) (x : M) (hli : LinearIndependent R v)
+    (x_ortho : ∀ (c : R) (y : Submodule.span R (Set.range v)), c • x + y = (0 : M) → c = 0) :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]:
```suggestion
    (x_ortho : ∀ (c : R) (y \in Submodule.span R (Set.range v)), c • x + y = 0 → c = 0) :
```
no?

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean [hunk 3]
```diff
@@ -661,6 +667,36 @@ theorem LinearIndependent.fin_cons {n} {v : Fin n → V} (hv : LinearIndependent
     (hx : x ∉ Submodule.span K (range v)) : LinearIndependent K (Fin.cons x v : Fin (n + 1) → V) :=
   linearIndependent_fin_cons.2 ⟨hv, hx⟩
 
+/-- See `LinearIndependent.fin_snoc'` for an uglier version that works if you
+only have a module over a semiring, and `LinearIndependent.fin_snoc_of_not_mem_span_over` for a
+version over a subring of a division ring. -/
+lemma LinearIndependent.fin_snoc {n} {v : Fin n → V} (hv : LinearIndependent K v)
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]:
```suggestion
lemma LinearIndependent.finSnoc {n} {v : Fin n → V} (hv : LinearIndependent K v)
```
Same for the primed version

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 4]
```diff
@@ -37,36 +39,306 @@ Hermann Minkowski.
 
 public section
 
+namespace Real
 
-namespace MeasureTheory
+lemma atTop_le_cobounded : .atTop ≤ Bornology.cobounded ℝ := by
+  rw [cobounded_eq]; exact le_sup_right
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: This should move to an earlier file

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 5]
```diff
@@ -37,36 +39,306 @@ Hermann Minkowski.
...
+
+variable [NormedAddCommGroup E] [NormedSpace ℝ E] {L : Submodule ℤ E} {s : Set E} {i j : ℕ}
+
+variable (L s i) in
+/-- The `i`-th successive minimum of a set `s` around the origin with respect to another subset `L`
+is the smallest `r` such that `r • s ∩ L` spans a subspace of dimension strictly greater than `i`.
+
+While we provide a very general definition, the most common usage is when `L` is a discrete
+submodule (i.e., a copy of `ℤ^r` in `E` for some `r ≤ finrank ℝ E`) and `s` is convex, balanced,
+absorbent, and bounded, which will be our focus later in the file.
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Docstrings are meant to be read from downstream files, so referring to "the file" is at best obscure at worst misleading

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 6]
```diff
@@ -37,36 +39,306 @@ Hermann Minkowski.
...
+    ((Submodule.finrank_mono (span_mono (inter_subset_right (s := r • s)))).trans hi).not_gt]
+
+variable [hL : DiscreteTopology L]
+
+theorem finrank_real_span_range_eq_finrank_int {ι : Type*} {v : ι → L} :
+    finrank ℝ (span ℝ <| .range (Subtype.val ∘ v)) =
+      finrank ℤ (span ℤ <| .range (Subtype.val ∘ v)) := by
+  have hd : DiscreteTopology (span ℤ (.range (Subtype.val ∘ v))) :=
+    hL.of_subset (span_le.mpr <| range_subset_iff.mpr fun j => (v j).prop)
+  simpa only [Set.finrank] using Real.finrank_eq_int_finrank_of_discrete hd
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: This belongs to an earlier file, no?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 7]
```diff
@@ -37,36 +39,306 @@ Hermann Minkowski.
...
+      _ ≤ d := by simpa using finrank_range_le_card v
+  refine ⟨Fin.snoc v w, ?_, ?_⟩
+  · intro j
+    refine Fin.lastCases ?_ ?_ j
+    · simpa [Fin.snoc_last] using hw
+    · intro i; simp [Fin.snoc_castSucc, hv i]
+  · exact hvli.fin_snoc hwv
+
+variable (L) in
+/-- `exists_directional_set'` with the weaker but perhaps more natural conclusion that the
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Docstrings should be readable standalone. Can you copy over the relevant part or the docstring of the primed version here and append this sentence at the end?

File: Mathlib/Analysis/Convex/Body.lean (hunk 1 above)
Comment (khwilson) [reply Mathlib/Analysis/Convex/Body.lean]: No and it seems to have been removed on master in a subsequent commit :-)

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 3 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: I guess it's not this commit, but I was mimicking `fin_cons`. Should that be `finSucc` in some future commit?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 4 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: As mentioned in the commit message, I couldn't figure out a good place to house it. Wondered if you knew if there was a good "filter lemma" location somewhere in the code base.

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 2 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: I too would think, but this is how `.fin_cons'` is structured, and this is just a copy of `.fin_cons'` for `snoc`

I can do a bit of digging to see what happens if I change that, but seems like a larger surgery

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: It was added by @Vierkantor in https://github.com/leanprover-community/mathlib3/pull/6178. Probably just a typo?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 5 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Done

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: Yes, that would be great to fix

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 4 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: OK, I pushed this all the way back to IsOrderBornology and added several lemmas.

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 3 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: I went ahead and fixed them in this commit

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 2 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: I've changed all instances to `\in` instead of `:`

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 7 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Done.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 6 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Moved

**Comment by khwilson** [comment]
* Moved all requested lemmas to earlier files
* Updated to new naming conventions
* Fixed docstrings

If these represent the correct places to put lemmas / definitions, then I can go back and add some deprecation warnings if they're desired

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 8]
```diff
@@ -676,6 +677,15 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
   rw [Set.finrank, Set.finrank, ← f.finrank_eq]
   exact (ZLattice.rank ℝ L).symm
 
+omit [DiscreteTopology L] [ProperSpace E] in
+theorem Real.finrank_real_span_range_eq_finrank_int [hL : DiscreteTopology L] [NormedSpace ℝ E]
+    [FiniteDimensional ℝ E] {ι : Type*} {v : ι → L} :
+    finrank ℝ (span ℝ <| .range (Subtype.val ∘ v)) =
+      finrank ℤ (span ℤ <| .range (Subtype.val ∘ v)) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]: Here is a syntactic generalisation
```suggestion
    [FiniteDimensional ℝ E] {ι : Type*} {s : Set E} (hs : s \subseteq L) :
    finrank ℝ (span ℝ s) = finrank ℤ (span ℤ s) := by
```

File: Mathlib/Topology/Order/Bornology.lean
Comment (YaelDillies) [inline Mathlib/Topology/Order/Bornology.lean:1]: Can you make this a preliminary PR?

File: Mathlib/LinearAlgebra/Basis/Fin.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Basis/Fin.lean:1]: This too should be a preliminary PR

**Review by YaelDillies — COMMENTED** [review]
Yes, please add deprecations!

File: Mathlib/Topology/Order/Bornology.lean
Comment (khwilson) [reply Mathlib/Topology/Order/Bornology.lean:1]: Sure! #37738

File: Mathlib/LinearAlgebra/Basis/Fin.lean
Comment (khwilson) [reply Mathlib/LinearAlgebra/Basis/Fin.lean:1]: Sure! #37740

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean]: That was indeed a typo, or at least it should have been changed by now. Thanks for the correction!

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 8 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Added

**Comment by khwilson** [comment]
-awaiting-author

**Comment by khwilson** [comment]
Sorry for the delay, @YaelDillies . The dependent PRs are now merged, and I had my second child which delayed coming back and fixing this commit :-)

File: Mathlib/Analysis/Convex/Gauge.lean [hunk 9]
```diff
@@ -467,6 +467,40 @@ theorem gauge_eq_one_iff_mem_frontier (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
...
   rfl
 
+theorem closure_eq_iInter_gt_smul (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0) :
+    closure s = ⋂ (r : ℝ) (_ : 1 < r), r • s := by
+  conv_lhs => rw [show closure s = {x | gauge s x ≤ 1} from
+    (Set.ext fun x => (gauge_le_one_iff_mem_closure hc hs₀).symm)]
+  exact gauge_le_eq hc (mem_of_mem_nhds hs₀) (absorbent_nhds_zero hs₀) zero_le_one
+
+theorem gauge_le_eq_closure_smul_of_pos (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
+    (ha : 0 < a) : { x | gauge s x ≤ a } = closure (a • s) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Gauge.lean]:
```suggestion
theorem setOf_gauge_le_eq_closure_smul_of_pos (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
    (ha : 0 < a) : { x | gauge s x ≤ a } = closure (a • s) := by
```

File: Mathlib/Analysis/Convex/Gauge.lean [hunk 10]
```diff
@@ -467,6 +467,40 @@ theorem gauge_eq_one_iff_mem_frontier (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
...
+  rw [closure_smul₀' ha.ne']
+  ext x
+  rw [Set.mem_setOf_eq, Set.mem_smul_set_iff_inv_smul_mem₀ ha.ne',
+    ← gauge_le_one_iff_mem_closure hc hs₀,
+    gauge_smul_of_nonneg (inv_nonneg.mpr ha.le), smul_eq_mul,
+    inv_mul_le_iff₀ ha, mul_one]
+
+/-- If `E` is a `T1Space` and `s` is von Neumann bounded, then `gauge_le_eq_closure_smul` is true
+for all nonnegative `a`. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Gauge.lean]: Referring to another lemma in a docstring is confusing if it is the sole explanation for what a result is. Prefer something like
```suggestion
/-- See `gauge_le_eq_closure_smul` for the version where `E` isn't assumed to be T1 in exchange of
requiring `a` to be strictly positive. -/
```

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean:1]: Merge accident?

File: Mathlib/LinearAlgebra/Basis/Fin.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Basis/Fin.lean:1]: Merge accident?

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:1]: Does this still belong in the diff?

File: Mathlib/LinearAlgebra/Basis/Fin.lean
Comment (khwilson) [reply Mathlib/LinearAlgebra/Basis/Fin.lean:1]: Ah yes not actually necessary.

File: Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean
Comment (khwilson) [reply Mathlib/LinearAlgebra/LinearIndependent/Lemmas.lean:1]: Yes

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean
Comment (khwilson) [reply Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:1]: Removed

**Comment by khwilson** [comment]
-awaiting-author

File: Mathlib/Analysis/Convex/Gauge.lean [hunk 11]
```diff
@@ -467,6 +467,40 @@ theorem gauge_eq_one_iff_mem_frontier (hc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
...
+  ext x
+  rw [Set.mem_setOf_eq, Set.mem_smul_set_iff_inv_smul_mem₀ ha.ne',
+    ← gauge_le_one_iff_mem_closure hc hs₀,
+    gauge_smul_of_nonneg (inv_nonneg.mpr ha.le), smul_eq_mul,
+    inv_mul_le_iff₀ ha, mul_one]
+
+/-- See `gauge_le_eq_closure_smul` for the version where `E` isn't assumed to be T1 in exchange of
+requiring `a` to be strictly positive. -/
+theorem gauge_le_eq_closure_smul [T1Space E] (hc : Convex ℝ s) (hb : Bornology.IsVonNBounded ℝ s)
+    (hs₀ : s ∈ 𝓝 0) (ha : 0 ≤ a) : { x | gauge s x ≤ a } = closure (a • s) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Gauge.lean]:
```suggestion
theorem setOf_gauge_le_eq_closure_smul [T1Space E] (hc : Convex ℝ s) (hb : Bornology.IsVonNBounded ℝ s)
    (hs₀ : s ∈ 𝓝 0) (ha : 0 ≤ a) : { x | gauge s x ≤ a } = closure (a • s) := by
```

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 12]
```diff
@@ -674,6 +675,13 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
   rw [Set.finrank, Set.finrank, ← f.finrank_eq]
   exact (ZLattice.rank ℝ L).symm
 
+omit [DiscreteTopology L] [ProperSpace E] in
+theorem Real.finrank_real_span_range_eq_finrank_int [hL : DiscreteTopology L] [NormedSpace ℝ E]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
theorem Real.finrank_real_span_eq_finrank_int_span [hL : DiscreteTopology L] [NormedSpace ℝ E]
```

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 13]
```diff
@@ -674,6 +675,13 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
...
+    [FiniteDimensional ℝ E] {s : Set E} (hs : s ⊆ L) :
+    finrank ℝ (span ℝ s) = finrank ℤ (span ℤ s) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
    [FiniteDimensional ℝ L] {s : Set E} (hs : s ⊆ L) :
    finrank ℝ (span ℝ s) = finrank ℤ (span ℤ s) := by
```
This is enough, right?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 14]
```diff
@@ -37,46 +39,304 @@ Hermann Minkowski.
...
+/-- The `i`-th successive minimum of a set `s` around the origin with respect to another subset `L`
+is the smallest `r` such that `r • s ∩ L` spans a subspace of dimension strictly greater than `i`.
+
+While we provide a very general definition, the most common usage is when `L` is a discrete
+submodule (i.e., a copy of `ℤ^r` in `E` for some `r ≤ finrank ℝ E`) and `s` is convex, balanced,
+absorbent, and bounded.
+
+Note that the usual definition of successive minimum is that `r • s ∩ L` spans a subspace of
+dimension *at least* `i`. However, this makes the `0`-th successive minimum be `0`, which is
+inconvenient. Values past the dimension of the ambient space `E` are junk. -/
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:77]:
```suggestion
inconvenient.

Values past the dimension of the ambient space `E` are junked to `0`.
See `successiveMin_of_finrank_le`. -/
```

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:1]: Did you forget to push the removal?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 15]
```diff
@@ -37,46 +39,304 @@ Hermann Minkowski.
...
+  simp [successiveMin, fun r : ℝ≥0 =>
+    ((Submodule.finrank_mono (span_mono (inter_subset_right (s := r • s)))).trans hi).not_gt]
+
+variable [hL : DiscreteTopology L]
+
+theorem successiveMin_of_finrank_int_le (hi : finrank ℤ L ≤ i) : successiveMin L s i = 0 := by
+  have hd : DiscreteTopology (span ℤ (L : Set E)) := by rw [L.span_eq]; exact hL
+  have h := Real.finrank_eq_int_finrank_of_discrete hd
+  simp only [Set.finrank] at h
+  rw [L.span_eq] at h
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Can you make `[DiscreteTopology L] : finrank ℝ (span ℝ L) = finrank ℤ L` a simp lemma?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 16]
```diff
@@ -37,46 +39,304 @@ Hermann Minkowski.
...
+    lt_of_lt_of_le hr'mem (finrank_mono (span_mono (inter_subset_inter_left _
+      (hsc.smul_mono_of_zero_mem h0s r'.coe_nonneg (by exact_mod_cast hr'r.le)))))
+  obtain ⟨f, hf_mem, -, hf_li⟩ := exists_fun_fin_finrank_span_eq ℝ (r • s ∩ L)
+  use fun j ↦ ⟨f (Fin.castLE hri j), (hf_mem _).2⟩
+  constructor
+  · intro j; exact hf_mem _
+  · refine ((hf_li.comp _ (Fin.castLE_injective hri)).restrict_scalars ?_).of_comp L.subtype
+    exact fun a b h ↦ by simpa using h
+
+lemma isClosed_lt_finrank_span_smul_inter (hsc : Convex ℝ s) (hs : IsCompact s) (hs₀ : s ∈ 𝓝 0)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
lemma isClosed_setOf_lt_finrank_span_smul_inter (hsc : Convex ℝ s) (hs : IsCompact s) (hs₀ : s ∈ 𝓝 0)
```

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 13 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: In theory, yes, but `L` is not a `Real` module and `FiniteDimensional K E` requires `K` to be a division ring. So this would be a  much bigger surgery.

File: Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean
Comment (khwilson) [reply Mathlib/LinearAlgebra/FiniteDimensional/Lemmas.lean:1]: Ah, apologies, there are many files named "Lemmas" and I removed the diff from `LinearIndepdent/Lemmas` not `LinearAlgebra/FiniteDimensional/Lemmas`.

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Oh right, nevermind then

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 15 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Done

**Comment by khwilson** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 17]
```diff
@@ -674,6 +675,20 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
...
+omit [DiscreteTopology L] [ProperSpace E] in
+theorem finrank_real_span_eq_finrank_int_span [hL : DiscreteTopology L] [NormedSpace ℝ E]
+    [FiniteDimensional ℝ E] {s : Set E} (hs : s ⊆ L) :
+    finrank ℝ (span ℝ s) = finrank ℤ (span ℤ s) := by
+  have hd : DiscreteTopology (span ℤ s) := hL.of_subset (span_le.mpr hs)
+  simpa only [Set.finrank] using Real.finrank_eq_int_finrank_of_discrete hd
+
+omit [ProperSpace E] in
+@[simp] theorem Real.finrank_real_span_eq_finrank_int [NormedSpace ℝ E] [FiniteDimensional ℝ E] :
+    Set.finrank ℝ (L : Set E) = finrank ℤ L := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
@[simp] theorem Real.setFinrank_eq_finrank_int [NormedSpace ℝ E] [FiniteDimensional ℝ E] :
    Set.finrank ℝ (L : Set E) = finrank ℤ L := by
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 18]
```diff
@@ -37,46 +39,304 @@ Hermann Minkowski.
...
+inconvenient. Values past the dimension of the ambient space `E` are junk. -/
+noncomputable def successiveMin : ℝ≥0 := sInf {r | i < finrank ℝ (span ℝ <| r • s ∩ L)}
+
+variable [FiniteDimensional ℝ E]
+
+@[simp] lemma successiveMin_of_finrank_le (hi : finrank ℝ E ≤ i) : successiveMin L s i = 0 := by
+  simp [successiveMin, ((finrank_le _).trans hi).not_gt]
+
+@[simp] lemma successiveMin_of_finrank_span_le
+    (hi : finrank ℝ (span ℝ (L : Set E)) ≤ i) : successiveMin L s i = 0 := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Can you use `Set.finrank` here and below?

Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Yeah I was wondering about that. Should the definition of `successiveMin` also be:

```lean
noncomputable def successiveMin : ℝ≥0 := sInf {r | i < Set.finrank ℝ (r • s ∩ L)}
```

Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: OK, made that change as well for consistency.

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 17 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Changed. Also mimicked this naming in the theorem right above (not part of the original PR) and added deprecation (only affected one downstream file).

**Comment by khwilson** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 19]
```diff
@@ -659,8 +660,8 @@ instance instCountable_of_discrete_submodule {E : Type*} [NormedAddCommGroup E]
 /--
 Assume that the set `s` spans over `ℤ` a discrete set. Then its `ℝ`-rank is equal to its `ℤ`-rank.
 -/
-theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
-    [FiniteDimensional ℝ E] {s : Set E} (hs : DiscreteTopology (span ℤ s)) :
+theorem Real.setFinrank_eq_setFinrank_int_of_discrete {E : Type*} [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [FiniteDimensional ℝ E] {s : Set E} (hs : DiscreteTopology (span ℤ s)) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
theorem setFinrank_real_eq_setFinrank_int_of_discrete {E : Type*} [NormedAddCommGroup E]
    [NormedSpace ℝ E] [FiniteDimensional ℝ E] {s : Set E} (hs : DiscreteTopology (span ℤ s)) :
```
makes more sense, no?

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 20]
```diff
@@ -674,6 +675,23 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
   rw [Set.finrank, Set.finrank, ← f.finrank_eq]
   exact (ZLattice.rank ℝ L).symm
 
+@[deprecated (since := "2026-05-31")]
+alias Real.finrank_eq_int_finrank_of_discrete := Real.setFinrank_eq_setFinrank_int_of_discrete
+
+omit [DiscreteTopology L] [ProperSpace E] in
+theorem finrank_real_span_eq_finrank_int_span [hL : DiscreteTopology L] [NormedSpace ℝ E]
+    [FiniteDimensional ℝ E] {s : Set E} (hs : s ⊆ L) :
+    finrank ℝ (span ℝ s) = finrank ℤ (span ℤ s) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]: This should be stated using `Set.finrank`

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 21]
```diff
@@ -674,6 +675,23 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
...
+  have hd : DiscreteTopology (span ℤ s) := hL.of_subset (span_le.mpr hs)
+  simpa only [Set.finrank] using Real.setFinrank_eq_setFinrank_int_of_discrete hd
+
+omit [ProperSpace E] in
+@[simp] theorem Real.setFinrank_real_eq_finrank_int [NormedSpace ℝ E] [FiniteDimensional ℝ E] :
+    Set.finrank ℝ (L : Set E) = finrank ℤ L := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
@[simp] theorem setFinrank_real_eq_finrank_int [NormedSpace ℝ E] [FiniteDimensional ℝ E] :
    Set.finrank ℝ (L : Set E) = finrank ℤ L := by
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 22]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+inconvenient. Values past the dimension of the ambient space `E` are junk. -/
+noncomputable def successiveMin : ℝ≥0 := sInf {r | i < Set.finrank ℝ (r • s ∩ L)}
+
+variable [FiniteDimensional ℝ E]
+
+@[simp] lemma successiveMin_of_finrank_le (hi : finrank ℝ E ≤ i) : successiveMin L s i = 0 := by
+  simp [successiveMin, Set.finrank, ((finrank_le _).trans hi).not_gt]
+
+@[simp] lemma successiveMin_of_finrank_span_le
+    (hi : Set.finrank ℝ (L : Set E) ≤ i) : successiveMin L s i = 0 := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
@[simp] lemma successiveMin_of_setFinrank_le
    (hi : Set.finrank ℝ (L : Set E) ≤ i) : successiveMin L s i = 0 := by
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 23]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+  simp [successiveMin, Set.finrank, fun r ↦
+    ((Submodule.finrank_mono (span_mono (inter_subset_right (s := r • s)))).trans hi).not_gt]
+
+variable [hL : DiscreteTopology L]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Is there any chance you can avoid naming this variable? If you need to refer to it, can you try using `\f<_\f>` or `\f<DiscreteTopology L\f>` instead?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 24]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+          (Set.range_subset_iff.mpr fun i => (b i).prop)).symm
+    _ ≤ finrank ℝ (span ℝ <| r • s ∩ L) := by
+      refine finrank_mono <| span_mono ?_
+      rintro x ⟨j, rfl⟩
+      refine mem_inter ?_ (by simp)
+      simp_rw [subset_def, mem_range] at hr
+      simp [hr]
+
+lemma exists_lt_finrank_span_smul_inter_zLattice [IsZLattice ℝ L] (hs : Absorbent ℝ s)
+    (hi : i < finrank ℝ E) : ∃ r : ℝ≥0, i < Set.finrank ℝ (r • s ∩ L) :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
lemma exists_lt_setFinrank_smul_inter_zLattice [IsZLattice ℝ L] (hs : Absorbent ℝ s)
    (hi : i < finrank ℝ E) : ∃ r : ℝ≥0, i < Set.finrank ℝ (r • s ∩ L) :=
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 25]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+  exists_lt_setFinrank_smul_inter hs (hi.trans_eq (ZLattice.rank ..).symm)
+
+@[gcongr] lemma successiveMin_mono (hs : Absorbent ℝ s) (hij : i ≤ j) (hj : j < finrank ℤ L) :
+    successiveMin L s i ≤ successiveMin L s j :=
+  csInf_le_csInf' (exists_lt_setFinrank_smul_inter hs hj) fun _r ↦ hij.trans_lt
+
+lemma exists_linearIndependent_of_successiveMin_lt {r : ℝ≥0} (hsc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
+    (hi : i < finrank ℤ L) (hr : successiveMin L s i < r) :
+    ∃ v : Fin (i + 1) → L, (∀ j, (v j : E) ∈ r • s ∩ L) ∧ (LinearIndependent ℤ v) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
    ∃ v : Fin (i + 1) → L, (∀ j, (v j : E) ∈ r • s ∩ L) ∧ LinearIndependent ℤ v := by
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 26]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+    have h1 : Set.Finite {x : L | (x : E) ∈ (r₀ + 1) • s ∩ (L : Set E)} :=
+      hfin.preimage (fun _ _ _ _ h => Subtype.coe_injective h)
+    have h2 : Set.Finite {v : Fin (i + 1) → L | ∀ j, (v j : E) ∈ (r₀ + 1) • s ∩ (L : Set E)} :=
+      Finite.pi' (fun _ => h1)
+    simp only [S, h2]
+  by_cases! hn : ∃ n, r n ≤ r₀
+  · obtain ⟨n, hn'⟩ := hn
+    calc
+      i < finrank ℝ (span ℝ <| r n • s ∩ L) := hr n
+      _ ≤ finrank ℝ (span ℝ <| r₀ • s ∩ L) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
      i < Set.finrank ℝ (r n • s ∩ L) := hr n
      _ ≤ Set.finrank ℝ (r₀ • s ∩ L) := by
```
no?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 27]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+        refine finrank_mono <| span_mono (inter_subset_inter_left _ ?_)
+        exact (hsc.smul_mono_of_zero_mem hs₀' (by simp) hn')
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Then this can be
```suggestion
        gcongr
        exact hsc.smul_mono_of_zero_mem hs₀' (by simp) hn'
```

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 28]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+      obtain ⟨n, rfl⟩ := hfreq.exists
+      exact (Fintype.card_fin _).symm.trans (finrank_span_eq_card ((hv n).2)).symm
+    _ = finrank ℝ (span ℝ (.range (Subtype.val ∘ v₀))) := by
+        trans finrank ℤ (span ℤ (.range (Subtype.val ∘ v₀)))
+        · have : .range (Subtype.val ∘ v₀) = L.subtype '' .range v₀ := by
+            rw [range_comp]; rfl
+          rw [this, ← Submodule.map_span, Submodule.finrank_map_subtype_eq]
+        · exact (finrank_real_span_eq_finrank_int_span _
+            (Set.range_subset_iff.mpr fun j => (v₀ j).prop)).symm
+    _ ≤ finrank ℝ (span ℝ <| r₀ • s ∩ L) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Same here

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 29]
```diff
@@ -37,46 +39,300 @@ Hermann Minkowski.
...
+      simp_rw [this, mem_iInter]
+      intro r' hr'
+      let r'' : ℝ≥0 := ⟨r', show 0 ≤ r' by exact r₀.coe_nonneg.trans hr'.le⟩
+      obtain ⟨n, ⟨rfl, hn⟩⟩ :=
+        hfreq.and_eventually
+          (hlim.eventually (eventually_lt_nhds (a := r₀) (b := r'') hr')) |>.exists
+      apply mem_of_subset_of_mem (hsc.smul_mono_of_zero_mem hs₀' (by simp) hn.le)
+      exact mem_of_mem_inter_left ((hv n).1 j)
+
+lemma lt_setFinrank_successiveMin (hsc : Convex ℝ s) (hs : IsCompact s)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
lemma lt_setFinrank_successiveMin_smul (hsc : Convex ℝ s) (hs : IsCompact s)
```

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 19 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Thought about this when I made the original change. My only concern was that someone put this behind the namespace for a reason, so moving it out to root was a big change. But agree this makes more sense as a name a priori. Will change.

Comment (YaelDillies) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Don't take mathlib code as word of gospel. There is a lot of wrong stuff in there! For example, the name `Set.finrank` itself is bad, since this isn't intrinsically a definition about sets, but about sets in a module. `Module.finrankSet` would be much more appropriate

Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Fair enough! Will take Chesterton's Fence with a grain of salt in the future :-)

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 20 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Done. But is it worth having the "raw" span version somewhere?

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 21 above)
Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Done

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 22 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Good catch

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 23 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Yep! Done

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 26 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Yep. Also redid some of the other proofs with this notation.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 27 above)
Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: The `gcongr` doesn't work here. But I did remove the parentheses.

**Comment by khwilson** [comment]
-awaiting-author

File: Mathlib/Algebra/Module/ZLattice/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Since `Set.finrank` is simp nf, I didn't think so no

**Comment by khwilson** [comment]
Makes sense

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Even after the change to `Set.finrank`? If so, that means we're missing a gcongr lemma. Can you add it?

**Comment by khwilson** [comment]
Could you point me to an example of how to make a gcongr lemma?

**Comment by YaelDillies** [comment]
I have added the missing `@[gcongr]` annotation. You can see what I meant.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

(for maintainers: I authored the definitions, and Kevin filled in the proofs)

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 30]
```diff
@@ -674,6 +675,23 @@ theorem Real.finrank_eq_int_finrank_of_discrete {E : Type*} [NormedAddCommGroup
   rw [Set.finrank, Set.finrank, ← f.finrank_eq]
   exact (ZLattice.rank ℝ L).symm
 
+@[deprecated (since := "2026-05-31")]
+alias Real.finrank_eq_int_finrank_of_discrete := setFinrank_real_eq_setFinrank_int_of_discrete
+
+omit [DiscreteTopology L] [ProperSpace E] in
+theorem setFinrank_real_eq_setFinrank_int_of_subset_discreteTopology [DiscreteTopology L]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
omit [ProperSpace E] in
theorem setFinrank_real_eq_setFinrank_int_of_subset_discreteTopology
```

Comment (khwilson) [reply Mathlib/Algebra/Module/ZLattice/Basic.lean]: Oh whoops

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 31]
```diff
@@ -37,46 +39,302 @@ Hermann Minkowski.
...
     (fund : IsAddFundamentalDomain L F μ) (hS : NullMeasurableSet s μ) (h : μ F < μ s) :
     ∃ x y : L, x ≠ y ∧ ¬Disjoint (x +ᵥ s) (y +ᵥ s) := by
   contrapose! h
   exact ((fund.measure_eq_tsum _).trans (measure_iUnion₀
     (Pairwise.mono h fun i j hij => (hij.mono inf_le_left inf_le_left).aedisjoint)
       fun _ => (hS.vadd _).inter fund.nullMeasurableSet).symm).trans_le
-      (measure_mono <| Set.iUnion_subset fun _ => Set.inter_subset_right)
+      (measure_mono <| iUnion_subset fun _ => inter_subset_right)
+
+public section successiveMin
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]:
```suggestion
section successiveMin
```
I don't think that you need the `public`, as the file is already starting with a `public section`.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 32]
```diff
@@ -37,46 +39,302 @@ Hermann Minkowski.
...
+
+lemma exists_lt_setFinrank_smul_inter_zLattice [IsZLattice ℝ L] (hs : Absorbent ℝ s)
+    (hi : i < finrank ℝ E) : ∃ r : ℝ≥0, i < Set.finrank ℝ (r • s ∩ L) :=
+  exists_lt_setFinrank_smul_inter hs (hi.trans_eq (ZLattice.rank ..).symm)
+
+@[gcongr] lemma successiveMin_mono (hs : Absorbent ℝ s) (hij : i ≤ j) (hj : j < finrank ℤ L) :
+    successiveMin L s i ≤ successiveMin L s j :=
+  csInf_le_csInf' (exists_lt_setFinrank_smul_inter hs hj) fun _r ↦ hij.trans_lt
+
+lemma exists_linearIndependent_of_successiveMin_lt {r : ℝ≥0} (hsc : Convex ℝ s) (hs₀ : s ∈ 𝓝 0)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:131]: Would it make sense to give a version as follows: consider `r j` with is strictly larger than the `j`-th minimum. then there exists `v` linearly independent with `v j` in `r j • s ∩ L`. I.e., the same statement but with `r` depending on `j`. This is also a version of the statement as `exists_directional_set` (with or without the prime) without the closedness assumption.

Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:131]: Apologies for the delay. Just getting a chance to sit down now to respond.

For _this_ particular theorem, I'm not sure what the dependence of `r` on `j` buys you. I think what you're going for is that `exists_directional_set` (primed or not) has a version where you essentially replace `≤` (represented by `\in`) with `<` and this allows you to drop the closed assumption.

That may be useful in some cases. Notably, these are _very_ similar statements. The literature is a bit back and forth with some authors working with "compact convex neighborhoods of 0" and some working with "bounded open neighborhoods of 0."

So I'd prefer to leave a TODO, personally than to implement this now and see if anyone needs it for real later or if they can keep to one, consistent formulation inside of mathlib.

**Comment by khwilson** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 32 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:131]: I know that these are very similar statements, and that the literature uses interchangeably one or the other depending on the context. That's what I think we should definitely have the two: providing one and not the other means that we're missing half of the basic API around this notion!

Comment (khwilson) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:131]: Hmmm, I do think if you want to go that direction, then the correct thing is actually to create a new structure called `DirectionalBasis` which would look something like:

```lean
structure DirectionalBasis where
  /-- The underlying family of vectors, which lie in `L` and form an `ℝ`-basis of `span ℝ L`. -/
  toFun : Fin (finrank ℤ L) → E
  /-- The vectors of a directional basis are linearly independent over `ℝ`. -/
  linearIndependent : LinearIndependent ℝ toFun
  /-- Each vector of a directional basis lies in `L`. -/
  coe_mem : ∀ j, toFun j ∈ L
  /-- Vector `j` lies in `r • s` for every `r` exceeding the `j`th successive minimum. -/
  mem_successiveMin_smul' : ∀ j r, successiveMin L s j.val < r → toFun j ∈ r • s
```

Then you can consolidate all of the `exists_directional*` behind two theorems:
* `exists_directionalBasis_of_convex_isCompact_nhds_zero` and
* `exists_directionalBasis_of_convex_nhds_zero_isCompact_closure`

In the case of `IsCompact s` then you could get the real `mem_successiveMin_smul` which drops the `<`.

Adding this would be a significant refactor (probably a few hundred lines of code and the creation of another file), so if you're OK reviewing the whole thing from scratch, I'm happy to make the change, but I _would_ like to close out this thread as the initial commit was pushed in February :-)
